US04111935
A mixture of 6-(2-acetoxyphenyl)-3(2H)pyridazinone (22.4g) and phosphoryl chloride (90 ml) was stirred and warmed at 55°-60° for 40 minutes. The phosphoryl chloride was removed under reduced pressure at 50° and the residual oil was poured on to ice (200 g). The mixture was allowed to stand overnight at 5° and was filtered to give 3-chloro-6-(2-acetoxyphenyl)pyridazine (23.1 g m.p. 131°-133.5°. A sample recrystallised from ethanol had m.p. 137°-138°.

reactant | 6-(2-acetoxyphenyl)-3(2H)pyridazinone | 22.4g | C(C)(=O)OC1=C(C=CC=C1)C=1C=CC(NN1)=O | C12H10N2O3
reactant | phosphoryl chloride | 90 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-(2-acetoxyphenyl)pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC=C1)OC(C)=O | C12H9ClN2O2
